US09403831B2
(S)-tert-butyl 2-((tosyloxy)methyl)morpholine-4-carboxylate
(S)-(4-benzylmorpholin-2-yl)methyl 4-methylbenzene sulfonate (62 g, 171.52 mmol) was dissolved in MeOH (500 ml), and BOC2O (44.9 g, 205.83 mmol) and Pd/C (8 g) were added, followed by stirring at room temperature under 50 psi of H2 (gas) for 12 hours. After the completion of the reaction, the reaction mixture was filtered through celite, followed by drying, and then the next reaction was advanced.

reactant | (S)-(4-benzylmorpholin-2-yl)methyl 4-methylbenzene sulfonate | 171.52 mmol, 62 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@@H]1CN(CCO1)CC1=CC=CC=C1 | C19H23NO4S
reactant | BOC2O | 205.83 mmol, 44.9 g | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
solvent | MeOH | 500 ml | CO | CH4O
catalyst | Pd/C | 8 g | [Pd] | Pd
product | (S)-tert-butyl 2-((tosyloxy)methyl)morpholine-4-carboxylate | S(=O)(=O)(C1=CC=C(C)C=C1)OC[C@@H]1CN(CCO1)C(=O)OC(C)(C)C | C17H25NO6S
